US07125901B2
To a suspension of N-(4-(2-(4-aminophenyl)ethyl)-1,3-thiazol-2-yl)acetamide (26 g) in ethanol (500 ml) was added 4N hydrogen chloride in ethyl acetate (25 ml) and cyanamide (6.3 g). The mixture was refluxed for 26 hours. The reaction mixture was cooled to ambient temperature and poured into a mixture of ethyl acetate (500 ml) and saturated sodium hydrogen carbonate solution (500 ml). The resulted precipitate was collected by filtration and washed with water (300 ml) and ethanol (300 ml) to give N-{4-[2-(4-{[amino(imino)methyl]amino}phenyl)ethyl]-1,3-thiazol-2-yl}acetamide (18 g) as white crystals.

reactant | N-(4-(2-(4-aminophenyl)ethyl)-1,3-thiazol-2-yl)acetamide | 26 g | NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C13H15N3OS
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | sodium hydrogen carbonate | 500 ml | C(O)([O-])=O.[Na+]
reactant | cyanamide | 6.3 g | N#CN | CH2N2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-{4-[2-(4-{[amino(imino)methyl]amino}phenyl)ethyl]-1,3-thiazol-2-yl}acetamide | 18 g | NC(=N)NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H17N5OS
